US07338960B2
6-[4-(Trifluoromethyl)phenyl]-2-pyridinecarbaldehyde
A solution of 6-bromo-2-pyridinecarboxaldehyde (512 mg, 2.75 mmol) and 4-(triflouromethyl)benzeneboronic acid (522 mg, 2.75 mmol) in DME (46 mL) was treated a slurry of Na2CO3 (875 mg, 8.26 mmol) in water (23 mL) followed by Pd(PPh3)4 (64 mg, 0.06 mmol). The resulting mixture was then heated to reflux, under nitrogen over 30 minutes and then stirred at this temperature for 17 hours. The mixture was then allowed to cool to rt, was reduced under vacuum and the residue partitioned between EtOAc (50 mL) and water (50 mL) and the layers separated. The aqueous was re-extracted with EtOAc (100 mL) and the combined organic layer washed with brine (100 mL), dried (MgSO4), filtered and reduced to give a yellow solid residue. Purification by SPE (silica) eluting with cyclohexane:EtOAc (gradient 1:0 to 10:1) afforded the title compound as a yellow foam (565 mg).

reactant | 6-bromo-2-pyridinecarboxaldehyde | 2.75 mmol, 512 mg | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | 4-(triflouromethyl)benzeneboronic acid | 2.75 mmol, 522 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 8.26 mmol, 875 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 46 mL | COCCOC | C4H10O2
solvent | water | 23 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.06 mmol, 64 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-[4-(Trifluoromethyl)phenyl]-2-pyridinecarbaldehyde | 565 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C=O)(F)F | C13H8F3NO
